### PR TITLE
rt refine: Solve five sorries in Tcb_R.thy

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Solve five sorries in Tcb_R.thy

### CODE REVIEW

File: proof/refine/ARM/Tcb_R.thy [hunk 1]
```diff
@@ -64,16 +64,14 @@ lemma bind_notification_corres:
...
   apply (rule corres_guard_imp)
-  sorry (*
     apply (rule corres_split[OF _ get_ntfn_corres])
       apply (rule corres_split[OF _ set_ntfn_corres])
          apply (rule sbn_corres)
         apply (clarsimp simp: ntfn_relation_def split: Structures_A.ntfn.splits)
-       apply (wp)+
-   apply auto
-  done *)
+       apply wp+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:73]: Doesn't `corres_guard_imp` only generate another 2 subgoals?

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -279,12 +280,11 @@ lemma readreg_corres:
         apply wp+
       apply (rule corres_when [OF refl])
       apply (rule suspend_corres)
-     apply wp+
-   apply (clarsimp simp: invs_def valid_state_def valid_pspace_def
+     apply (wp IpcCancel_AI.suspend_invs)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:283]: Maybe it's best to rename `susped_invs'` (I know there are a bunch of lemmas where we have written `invs` instead of `invs'`. We could make a good ol' JIRA issue out of it)

**Review by michaelmcinerney — APPROVED** [review]

**Review by VictorPhan — APPROVED** [review]

File: proof/refine/ARM/Tcb_R.thy (hunk 1 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Tcb_R.thy:73]: Yes, but the corres_splits generate more on top of that.

File: proof/refine/ARM/Tcb_R.thy (hunk 2 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Tcb_R.thy:283]: `suspend_invs'` doesn't exist here yet, so it's enough to just remove the `IpcCancel_AI.`

**Review by mktnk3 — APPROVED** [review]
Nice!

File: proof/refine/ARM/Tcb_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/ARM/Tcb_R.thy]: A JIRA issue for consistent naming sounds good to me!

Comment (mktnk3) [reply proof/refine/ARM/Tcb_R.thy]: For this case it was actually the AInvs `invs`, I think. For what Michael’s saying, could you write it up as a JIRA issue, Michael, do you think?
